US06642267B2
A solution of 0.11 g (0.5 mmol) 5-benzylidene-4-methoxy-3-nitroso-1,5-dihydropyrrol-2-one (prepared by the method of H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, vol. 331, pp. 389-394) and Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199 and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in methanol was boiled under reflux with 0.25 ml (0.25 mmol) benzylamine for two minutes. The compound 4-benzylamino-5-benzylidene-3-nitroso-1,5-dihydropyrrol-2-one was obtained as red-violet crystals in a yield of 60% after recrystallization from methanol. The compound decomposes at 220° C.

reactant | 5-benzylidene-4-methoxy-3-nitroso-1,5-dihydropyrrol-2-one | 0.5 mmol, 0.11 g | C(C1=CC=CC=C1)=C1C(=C(C(N1)=O)N=O)OC | C12H10N2O3
reactant | benzylamine | 0.25 mmol, 0.25 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | CO | CH4O
product | 4-benzylamino-5-benzylidene-3-nitroso-1,5-dihydropyrrol-2-one | yield of 60% | C(C1=CC=CC=C1)NC1=C(C(NC1=CC1=CC=CC=C1)=O)N=O | C18H15N3O2
